US07678929B2
3.3. Preparation of 7,8-difluoro-2-pentylchroman
51.0 g (0.21 mol) of 7,8-difluoro-2-pentyl-2H-chromene are hydrogenated for 1 h at room temperature in 510 ml of toluene in the presence of Pd/C (5% Pd). The batch is concentrated to dryness. The crude product (yellowish liquid) can be used directly for the next step.

reactant | 7,8-difluoro-2-pentyl-2H-chromene | 0.21 mol, 51.0 g | FC1=CC=C2C=CC(OC2=C1F)CCCCC | C14H16F2O
solvent | toluene | 510 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd/C | [Pd] | Pd
product | 7,8-difluoro-2-pentylchroman | FC1=CC=C2CCC(OC2=C1F)CCCCC | C14H18F2O
